US07750003B2
1-[4-[4-(Methoxymethyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]-3-phenyl-urea
1-[4-[4-[(3S)-3-Methylmorpholin-4-yl]-6-(methylsulfonyloxymethyl)pyrimidin-2-yl]phenyl]-3-phenyl-urea (90 mg) dissolved in a solution of DCM (5 mL) and triethylamine (0.045 mL). Sodium methoxide (33% in methanol) (0.073 mL) was added to the reaction and the mixture stirred at RT for 18 h before being quenched with water and partitioned. The organic phase was dried over magnesium sulphate and evaporated to give a gum which was purified by prep-HPLC (basic) to give the desired compound (32 mg) as a white solid.

reactant | 1-[4-[4-[(3S)-3-Methylmorpholin-4-yl]-6-(methylsulfonyloxymethyl)pyrimidin-2-yl]phenyl]-3-phenyl-urea | 90 mg | C[C@@H]1N(CCOC1)C1=NC(=NC(=C1)COS(=O)(=O)C)C1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1 | C24H27N5O5S
reactant | Sodium methoxide | 0.073 mL | C[O-].[Na+]
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.045 mL | C(C)N(CC)CC | C6H15N
product | 1-[4-[4-(Methoxymethyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]-3-phenyl-urea | 32 mg | COCC1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1 | C24H27N5O3
